US08980877B2
(−)-(E)-3-[4-Oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester hydrochloride (505 mg, 1.49 mmol) was suspended in DCM (50 ml). TEA (0.208 ml, 1.49 mmol) was added and the pH was adjusted to 5 with AcOH. Benzaldehyde (190 mg, 1.794 mmol) and NaBH(OAc)3 (475 mg, 2.24 mmol) were added and the mixture was stirred at RT for 3 h. The resulting solution was washed with 5% NaHCO3 and brine, then dried over Na2SO4 and evaporated to dryness. The crude product was purified by column chromatography (eluent:petroleum ether:EtOAc 9:1 to 7:3) to give (−)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester (547 mg).

reactant | (−)-(E)-3-[4-Oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester hydrochloride | 1.49 mmol, 505 mg | Cl.COC(\C=C\C=1C=C2C(CC3(CNCCC3)OC2=CC1)=O)=O
reactant | AcOH | CC(=O)O | C2H4O2
reactant | Benzaldehyde | 1.794 mmol, 190 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(OAc)3 | 2.24 mmol, 475 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | (−)-(E)-3-[1′-benzyl-4-oxo-spiro(chromane-2,3′-piperidine)-6-yl]-acrylic acid methyl ester | 547 mg | COC(\C=C\C=1C=C2C(CC3(CN(CCC3)CC3=CC=CC=C3)OC2=CC1)=O)=O | C24H25NO4
